US08703805B2
A solution of methyl 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-carboxylate (1.37 g, 2.6 mmol) and NaOH (1 g, 25 mmol) in MeOH—H2O (2:1, 16 mL) was refluxed for 2 h. After cooling, solid was removed and the filtrate was acidified with formic acid. Solid was collected by filtration and washed with water and dried under high vacuum to afford 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-carboxylic acid (1.05 g). MS(ES): 521 [M+H]+.

reactant | methyl 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-carboxylate | 2.6 mmol, 1.37 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(C(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)OC)C(F)(F)F | C25H18ClF3N2O4S
reactant | NaOH | 25 mmol, 1 g | [OH-].[Na+]
solvent | MeOH—H2O | 16 mL | CO.O
product | 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-carboxylic acid | 1.05 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(C(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)O)C(F)(F)F | C24H16ClF3N2O4S
